US06727264B1
N-(3-{1-[3-(3,4-DICHLOROPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-(3,4-dichlorophenoxy)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 497.15 (M+H)+.

reactant | 3-(3,4-dichlorophenoxy)benzaldehyde | ClC=1C=C(OC=2C=C(C=O)C=CC2)C=CC1Cl | C13H8Cl2O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(3,4-DICHLOROPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC=1C=C(OC=2C=C(CN3CCC(CC3)C=3C=C(C=CC3)NC(C(C)C)=O)C=CC2)C=CC1Cl | C28H30Cl2N2O2
